* source PROJECT1_ELEC2
R_R9         N26096 N25636  86k TC=0,0 
V_V4         N26292 0  AC 1
+SIN -3.3 -3u 500 0 0 0
Q_Q16         N26278 N26096 N26612 Qbreakn 
V_V2         N26744 0 -5
Q_Q15         N26096 N26096 N26608 Qbreakn 
Q_Q1         N25716 N26292 N26154 Qbreakn 
Q_Q10         N26082 N25942 N26492 Qbreakn 
Q_Q6         N26554 N26554 N26744 Qbreakn 
Q_Q5         N26064 N26064 N26554 Qbreakn 
R_R2         N25932 N25636  160k TC=0,0 
Q_Q13         N258541 N25838 N26278 Qbreakn 
Q_Q17         N26608 N26608 N26744 Qbreakn 
Q_Q9         N25942 N25942 N26498 Qbreakn 
R_R1         N25716 N25636  160k TC=0,0 
R_R7         N258541 N25636  77k TC=0,0 
R_R5         N25774 N25636  150k TC=0,0 
Q_Q3         N26154 N26064 N26558 Qbreakn 
Q_Q11         N26498 N26498 N26744 Qbreakn 
R_R3         N26064 N25636  86k TC=0,0 
Q_Q4         N26558 N26554 N26744 Qbreakn 
Q_Q14         N258761 N25774 N26278 Qbreakn 
V_V1         N25636 0 5
Q_Q2         N25932 N26054 N26154 Qbreakn 
R_R6         N25942 N25636  86k TC=0,0 
Q_Q7         N25838 N25716 N26082 Qbreakn 
Q_Q12         N26492 N26498 N26744 Qbreakn 
R_R4         N25838 N25636  150k TC=0,0 
V_V3         N26054 0  AC 1
+SIN -3.3 3u 500 0 0 0
R_R8         N258761 N25636  77k TC=0,0 
Q_Q8         N25774 N25932 N26082 Qbreakn 
Q_Q18         N26612 N26608 N26744 Qbreakn 
